US04663347
N-Phenyl-4-hydroxy-3-methylbenzofuran-2-carboxamide
A mixture of N-phenyl-4-methoxycarbonyloxy-3-methylbenzofuran-2-carboxamide (328 mg, 1 mmole), methanol (1.5 m) and 10% potassium carbonate solution (1.5 ml) was stirred under argon overnight. After partial neutralization with acetic acid (0.06 ml) and evaporation to about 5 ml, water and ethyl acetate were added. The aqueous layer was extracted a second time with ethyl acetate and then acidified with, hydrochloric acid and extracted again. The combined ethyl acetate extract was washed with saturated sodium chloride solution, dried with MgSO4, and evaporated to a gum. Column chromatography of the latter (Merck silica gel eluted with 1:1:2 ethyl acetate/methylene chloride/hexane) gave 200 mg of product (80%).

reactant | N-phenyl-4-methoxycarbonyloxy-3-methylbenzofuran-2-carboxamide | 1 mmole, 328 mg | C1(=CC=CC=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)OC(=O)OC | C18H15NO5
reactant | potassium carbonate | 1.5 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | N-Phenyl-4-hydroxy-3-methylbenzofuran-2-carboxamide | 200 mg, 80% | C1(=CC=CC=C1)NC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C16H13NO3
